US09421205B2
(a) Methyl 3-ethynylbenzoate (I31)
tert-Butyl 3-ethynylbenzoate (I17) (1.50 g, 9.37 mmol) was dissolved in dry DCM (70 mL) and TFA (35.9 mL, 468 mmol) was added carefully. The reaction was stirred at room temperature for 3 hours, concentrated in vacuo and toluene was added and then removed in vacuo to give a pale yellow solid. This material was dissolved in methanol (50 mL) and conc. H2SO4 (˜1 mL) was added and the resulting solution was stirred at 65° C. for 20 hours. Upon cooling to room temperature, the volatiles were removed in vacuo and the residue was diluted with EtOAc (200 mL) and sat. aq. NaHCO3 (100 mL) was added slowly. The layers were separated and the aqueous layer was extracted with EtOAc (200 mL), the organic layers were combined and washed with water (100 mL), brine (100 mL), dried (MgSO4), filtered and concentrated in vacuo to give the title compound (I31) (1.136 g, 96% yield over 2 steps) as a pale yellow solid; 1H NMR (400 MHz, CDCl3) δ 8.17 (t, J=1.5 Hz, 1H), 8.03-8.00 (m, 1H), 7.66 (dt, J=7.7, 1.4 Hz, 1H), 7.41 (td, J=7.8, 0.4 Hz, 1H), 3.93 (s, 3H), 3.12 (s, 1H). LCMS Method C: rt 5.84 min.

reactant | tert-Butyl 3-ethynylbenzoate | 9.37 mmol, 1.50 g | C(#C)C=1C=C(C(=O)OC(C)(C)C)C=CC1 | C13H14O2
reactant | TFA | 468 mmol, 35.9 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | H2SO4 | ˜1 mL | OS(=O)(=O)O | H2O4S
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 50 mL | CO | CH4O
product | Methyl 3-ethynylbenzoate | 1.136 g, 96% yield | C(#C)C=1C=C(C(=O)OC)C=CC1 | C10H8O2
